US08258149B2
To a suspension of 9,10-dimethoxy-13-methyl-5,6-dihydro-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-7-ylium; iodide (200 mg, 0.4 mmol) in anhydrous diethyl ether (5 mL) at 0° C. was added a solution of 1-propynylmagnesium bromide in tetrahydrofuran (0.5 M, 17 mL, 8.5 mmol) dropwise. After stirring at 0° C. for 30 min, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 9,10-dimethoxy-13-methyl-8-prop-1-ynyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (100 mg, 61%). LC/MS m/e calcd for C24H23NO4 (M+H)+: 390.46, observed: 390.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.67 (d, J=1.52 Hz, 3 H) 2.22 (s, 3 H) 2.59-2.69 (m, 1 H) 2.89-2.99 (m, 1 H) 3.16-3.27 (m, 2 H) 3.81 (d, J=7.58 Hz, 6 H) 5.38 (d, J=1.77 Hz, 1 H) 6.04 (d, J=2.78 Hz, 2 H) 6.84 (s, 1 H) 6.96 (m, 2 H) 7.06 (s, 1 H).

reactant | 9,10-dimethoxy-13-methyl-5,6-dihydro-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-7-ylium | COC1=C(C=CC=2C(=C3[NH+](CCC4=CC5=C(C=C34)OCO5)CC12)C)OC
reactant | iodide | 0.4 mmol, 200 mg | [I-]
reactant | 1-propynylmagnesium bromide | C(#CC)[Mg]Br
reactant | tetrahydrofuran | 8.5 mmol, 0.5 M, 17 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 9,10-dimethoxy-13-methyl-8-prop-1-ynyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 100 mg, 61% | COC1=C(C=CC=2C(=C3N(CCC4=CC5=C(C=C34)OCO5)C(C12)C#CC)C)OC | C24H23NO4
